US04016165
In the manner given in Example 1, 7-chloro-2-hydrazino-5-phenyl-3H-1,4-benzodiazepine can be reacted with α-bromoacetaldehyde to give 7-chloro-2-[(2-bromoethylidene)hydrazino]-5-phenyl-3H-1,4-benzodiazepine.

reactant | 7-chloro-2-hydrazino-5-phenyl-3H-1,4-benzodiazepine | ClC=1C=CC2=C(C(=NCC(=N2)NN)C2=CC=CC=C2)C1 | C15H13ClN4
reactant | α-bromoacetaldehyde | BrCC=O | C2H3BrO
product | 7-chloro-2-[(2-bromoethylidene)hydrazino]-5-phenyl-3H-1,4-benzodiazepine | ClC=1C=CC2=C(C(=NCC(=N2)NN=CCBr)C2=CC=CC=C2)C1 | C17H14BrClN4
